US07605272B2
In a similar manner to Step 1 of Example 224, bromide was obtained from (E)-{4-[2-(1H-indazol-3-yl)vinyl]-3-nitrophenyl}methanol (0.30 g, 1.0 mmol) obtained in Step 1 of Example 306, carbon tetrabromide (1.0 g, 3.1 mmol) and triphenylphosphine (0.80 mg, 3.1 mmol). Further, in a similar manner to Step 2 of Example 224, a crude product was obtained from DMF (6.0 mL) and 1-(3-methoxypropyl)piperazine (0.48 g, 3.1 mmol), triethylamine (0.43 mL, 3.1 mmol) and THF (6.0 mL), and the product was used for next step without isolation. In a similar manner to Example 2, the crude product was treated with tin (0.39 g, 3.3 mmol), concentrated hydrochloric acid (1.4 mL) and ethanol (8.9 mL), to obtain (E)-2-[2-(1H-indazol-3-yl)vinyl]-5-[4-(3-methoxypropyl)piperazin-1-ylmethyl]phenylamine (0.34 g, 81%).

reactant | DMF | 6.0 mL | CN(C)C=O | C3H7NO
reactant | triethylamine | 3.1 mmol, 0.43 mL | C(C)N(CC)CC | C6H15N
reactant | THF | 6.0 mL | C1CCOC1 | C4H8O
product | 1-(3-methoxypropyl)piperazine | 3.1 mmol, 0.48 g | COCCCN1CCNCC1 | C8H18N2O
